US04948796
(E)-3-(imidazol-4-yl)acrylic acid was reacted with chlorotriphenylmethane in N,N-dimethylformamide to obtain (E)-3-(N-triphenylmethylimidazol-4-yl)acrylic acid.

reactant | (E)-3-(imidazol-4-yl)acrylic acid | N1C=NC(=C1)/C=C/C(=O)O | C6H6N2O2
reactant | chlorotriphenylmethane | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | (E)-3-(N-triphenylmethylimidazol-4-yl)acrylic acid | C1(=CC=CC=C1)C(N1C=NC(=C1)/C=C/C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H20N2O2
